US08138176B2
e3) C-[5-(4-Methoxyphenyl)-5-methylmorpholin-3-yl]methylamine
A solution of 2.25 mmol of 5-(4-methoxyphenyl)-5-methylmorpholin-3-carbonitrile (Example 3f2) in 10 ml of tetrahydrofuran is cooled to 0-5° C. in an ice bath. 6.75 mmol of lithium aluminium hydride are added in portions, and the reaction mixture is then stirred at room temperature for 1 hour. The reaction mixture is quenched with 0.5 ml of methanol and mixed with 40 ml of dichloromethane and 0.060 g of solid potassium carbonate, and 0.60 ml of water. The suspension is filtered through Hyflo and the filter cake is washed with dichloromethane. The filtrate is evaporated. The title compound is obtained as a colourless oil from the residue by flash chromatography (SiO2 60 F). Rf=0.26 (dichloromethane-methanol-25% aqueous ammonia solution 200:20:1), Rt=2.13 (gradient I)

reactant | 5-(4-methoxyphenyl)-5-methylmorpholin-3-carbonitrile | 2.25 mmol | COC1=CC=C(C=C1)C1(COCC(N1)C#N)C | C13H16N2O2
reactant | lithium aluminium hydride | 6.75 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | C-[5-(4-Methoxyphenyl)-5-methylmorpholin-3-yl]methylamine | COC1=CC=C(C=C1)C1(COCC(N1)CN)C | C13H20N2O2
